US09399636B2
Into a vial was weighed 2-[(4-chloro-6-methyl-2-pyridyl)amino]pyridine-4-carbonitrile (282 mg, 1.15 mmol), [1,1-bis(diphenylphosphino)ferrocene]dichloropalladium(II) (85.1 mg, 10 mol %), 3,6-dihydro-2H-pyran-4-boronic acid pinacol ester (374 mg, 1.73 mmol) and potassium carbonate (478 mg, 3.46 mmol). After purging with nitrogen, the vial was charged with degassed 1,4-dioxane (2.3 mL) and degassed water (1 mL) and the reaction mixture was stirred at 80° C. overnight. The reaction was barely progressing at all as determined by RPLC and so bis(di-tert-butyl(4-dimethylaminophenyl)phosphine)dichloropalladium(II) (˜50 mg) and more 3,6-dihydro-2H-pyran-4-boronic acid pinacol ester (374 mg, 1.73 mmol) was added and the reaction temperature was increased to 100° C. and stirred overnight again. After cooling to rt and filtration through Celite, rinsing with CH2Cl2, the mother liquor was washed with brine and dried over MgSO4. Purification by flash column chromatography (100:0-95:5 CH2Cl2/MeOH) afforded 2-((4-(3,6-dihydro-2H-pyran-4-yl)-6-methylpyridin-2-yl)amino)isonicotinonitrile as a red solid (206 mg, 61%); 1H NMR (400 MHz, DMSO) δ 10.07 (br s, 1H), 8.44 (d, J=5.0 Hz, 1H), 8.21 (s, 1H), 7.51 (s, 1H), 7.23 (d, J=5.0 Hz, 1H), 6.93 (s, 1H), 6.45 (s, 1H), 4.25 (s, 2H), 3.83 (m, 2H), 2.43 (s, 3H), 2.41 (m, 2H); ESI-LRMS m/z [M+1]+=293.

reactant | 2-[(4-chloro-6-methyl-2-pyridyl)amino]pyridine-4-carbonitrile | 1.15 mmol, 282 mg | ClC1=CC(=NC(=C1)C)NC1=NC=CC(=C1)C#N | C12H9ClN4
reactant | 3,6-dihydro-2H-pyran-4-boronic acid pinacol ester | 1.73 mmol, 374 mg | O1CCC(=CC1)B1OC(C)(C)C(C)(C)O1 | C11H19BO3
reactant | potassium carbonate | 3.46 mmol, 478 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 3,6-dihydro-2H-pyran-4-boronic acid pinacol ester | 1.73 mmol, 374 mg | O1CCC(=CC1)B1OC(C)(C)C(C)(C)O1 | C11H19BO3
catalyst | [1,1-bis(diphenylphosphino)ferrocene]dichloropalladium(II) | 85.1 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C1=CC=C(C=C1)P(C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.Cl[Pd]Cl.[Fe]
catalyst | bis(di-tert-butyl(4-dimethylaminophenyl)phosphine)dichloropalladium(II) | ˜50 mg | CC(C)(C)P(C1=CC=C(C=C1)N(C)C)C(C)(C)C.CC(C)(C)P(C1=CC=C(C=C1)N(C)C)C(C)(C)C.Cl[Pd]Cl
product | 2-((4-(3,6-dihydro-2H-pyran-4-yl)-6-methylpyridin-2-yl)amino)isonicotinonitrile | 206 mg, 61% | O1CCC(=CC1)C1=CC(=NC(=C1)C)NC=1C=C(C#N)C=CN1 | C17H16N4O
